US07718652B2
In an analogous manner to Example 11 step 4, a solution of 6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.51 g, 1.7 mmol) was reacted with 4-bromobutanol (0.53 mL, 3.4 mmol) to afford 3-(4-bromobutyl)-6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.55 g, 74%) as a white solid:

reactant | 6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 1.7 mmol, 0.51 g | FC=1C=CC2=C(CNS(N2C2=C(C=CC=C2)F)(=O)=O)C1 | C13H10F2N2O2S
reactant | 4-bromobutanol | 3.4 mmol, 0.53 mL | BrCCCCO | C4H9BrO
product | 3-(4-bromobutyl)-6-fluoro-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.55 g, 74% | BrCCCCN1S(N(C2=C(C1)C=C(C=C2)F)C2=C(C=CC=C2)F)(=O)=O | C17H17BrF2N2O2S
